US07214673B2
1-Acetyl-3-(pyridin-3-yl)methylene-piperazine-2,5-dione
Add DMF (60 mL) to a mixture of 1,4-diacetyl-piperazine-2,5-dione (5.94 g, 30 mmol) and 3-pyridinecarboxaldehyde (12.84 g, 120 mmol). Cool to 0° C. Add portionwise over 20 min a solution of potassium tert-butoxide (3.36 g, 30 mmol) in tert-butanol (60 mL) to this solution. Warm to room temperature and stir for 2 h. Pour the mixture into water (400 mL) and filter. Wash with water three times, then with hexanes to obtain the title compound as a yellow powder (4.0 g, 54%): 1H NMR (DMSO-d6) δ 2.51 (s, 3H), 4.37 (s, 2H), 6.95 (s, 1H), 7.43 (dd, 1H), 7.96 (d, 1H1), 8.50 (d, 1H), 8.73 (s, 1H), 10.64 (bs, 1H).

reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
reactant | 1,4-diacetyl-piperazine-2,5-dione | 30 mmol, 5.94 g | C(C)(=O)N1C(CN(C(C1)=O)C(C)=O)=O | C8H10N2O4
reactant | 3-pyridinecarboxaldehyde | 120 mmol, 12.84 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | potassium tert-butoxide | 30 mmol, 3.36 g | CC(C)([O-])C.[K+]
solvent | tert-butanol | 60 mL | C(C)(C)(C)O | C4H10O
solvent | water | 400 mL | O | H2O
product | 1-Acetyl-3-(pyridin-3-yl)methylene-piperazine-2,5-dione | 4.0 g, 54% | C(C)(=O)N1C(C(NC(C1)=O)=CC=1C=NC=CC1)=O | C12H11N3O3
